US05665747
1,1-Bis(5-(2-methoxyethyl)-4-methyl-2-thiazolyl)ethanol
From 5-(2-methoxyethyl)-4-methylthiazole and 2-acetyl-5-(2-methoxyethyl)-4-methylthiazole.

reactant | 5-(2-methoxyethyl)-4-methylthiazole | COCCC1=C(N=CS1)C | C7H11NOS
reactant | 2-acetyl-5-(2-methoxyethyl)-4-methylthiazole | C(C)(=O)C=1SC(=C(N1)C)CCOC | C9H13NO2S
product | 1,1-Bis(5-(2-methoxyethyl)-4-methyl-2-thiazolyl)ethanol | COCCC1=C(N=C(S1)C(C)(O)C=1SC(=C(N1)C)CCOC)C | C16H24N2O3S2
